US05646310
A mixture of 41.7 of 2,2-bisfluoromethyl-6-nitro-2H-1-benzopyran-4-carboxylic acid, 20 ml of sulfuric acid and 300 ml of ethyl alcohol was heated under refluxing for 6 hours. The reaction mixture was poured into ice-water, and the precipitated crystals were separated by filtration to obtain 42.7 g of ethyl 2,2-bisfluoromethyl-6-nitro-2H-1-benzopyran-4-carboxylate having a melting point of 96°-98° C.

reactant | 2,2-bisfluoromethyl-6-nitro-2H-1-benzopyran-4-carboxylic acid | FCC1(OC2=C(C(=C1)C(=O)O)C=C(C=C2)[N+](=O)[O-])CF | C12H9F2NO5
reactant | sulfuric acid | 20 ml | S(O)(O)(=O)=O | H2O4S
reactant | ethyl alcohol | 300 ml | C(C)O | C2H6O
product | ethyl 2,2-bisfluoromethyl-6-nitro-2H-1-benzopyran-4-carboxylate | 42.7 g | FCC1(OC2=C(C(=C1)C(=O)OCC)C=C(C=C2)[N+](=O)[O-])CF | C14H13F2NO5
